US04559078
2-(i-Butoxy-P-methylphosphinyl)-phenylsulfonamide
A solution of 11.8 g (0.05 mole) of 2-bromophenylsulfonamide in 14 ml (0.1 mole) of triethylamine and 3 ml of dimethylformamide is treated with 6.8 g (0.05 mole) of isobutyl methylphosphinate and 1.1 g (0.001 mole) of tetrakistriphenylphosphine-palladium complex. The yellow suspension is stirred for 15 hours at 100° C., cooled and filtered. After the filtrate has been evaporated, the residue is crystallised from toluene. This gives 4.12 g of 2-(i-butoxy-P-methylphosphinyl)-phenylsulfonamide, melting point 50°-52° C.

reactant | 2-bromophenylsulfonamide | 0.05 mole, 11.8 g | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | triethylamine | 0.1 mole, 14 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl methylphosphinate | 0.05 mole, 6.8 g | CP(OCC(C)C)=O | C5H13O2P
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(i-Butoxy-P-methylphosphinyl)-phenylsulfonamide | C(C(C)C)OP(=O)(C)C1=C(C=CC=C1)S(=O)(=O)N | C11H18NO4PS
